Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:3][H:11])([H:7])([H:8])[H:9].[C:2]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],12.028951923878807
[O:1]([C@@:3]1([C:2]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],95.5564001272527
[C:1]([C@@:2]1([H:11])[O:3][C:4]([C:6](=[O:5])[H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],97.80154020396722
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9]>>[N:1]([C:2]1=[C:3]([H:10])[C@@:7]1(/[C:5](=[N:4]/[H:11])[O:6][H:12])[H:13])([H:8])[H:9],82.8426748681236
[C:1]([H:8])([H:9])([H:10])[H:12].[C:2]1([H:11])=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10],61.3684468560532
[C:1]1([H:5])([H:6])[O:3][C:4]1([H:9])[H:10].[C:2]([H:7])[H:8]>>[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10],25.401933365718804
[C-:5]#[O+:6].[C:1]([C:2]([C:3]([O:4][H:13])([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],69.61112168293027
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[C:2]([H:9])[H:10].[O:1]([C@:3]1([H:11])[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2)[H:8],104.148994048369
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([O:3][H:12])[C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],14.990142179563584
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([H:14])[H:15])([H:7])([H:8])[H:9].[H:13][H:16],60.0428203928576
[C:1]([C@@:3]([C:2]([O:4][H:13])([H:10])[H:11])([C:5]#[N:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],93.17004228944499
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]([C:2](=[C:3])[H:7])[C:4]1=[C:5]=[C:6]1[H:8],135.883424310838
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2](/[C:3]([O:4][C:5](=[O:6])[H:11])([H:8])[H:9])[H:10])\[H:7],67.6135537411981
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]=[C:2]([C:4](/[C:3](=[N:5]\[H:10])[H:7])([H:8])[H:9])[H:6],69.3925655818168
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C-:3]([H:11])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C+:6]2[C@:7]13[H:17].[H:12][H:16],143.27504039559798
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([O:5][H:14])=[C:6]([H:15])[H:16])([H:12])[H:13])=[C:7]([H:11])[H:17])([H:8])([H:9])[H:10],79.18266247637
[O:1]=[C:2]([O:7][C@:6]1([H:12])[C:4]([H:10])([H:11])[C:3]([H:9])=[N:5]1)[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],75.24373901448436
[N:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][N:6]([H:12])[C:5]1)([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],4.413037403047596
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[N:3]1[H:12].[C:4](=[O:5])=[C:6]([H:13])[H:14].[H:9][H:15],99.99793996837772
[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([H:10])[H:11])([H:7])[H:8].[C:4](=[O:5])=[N:6][H:13].[H:9][H:12],85.203262072572
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:5][C:6](=[O:4])[H:10])([H:8])[H:9])[H:7],73.9659008444062
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:13])=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],47.312275798402595
[C:4](=[C:5]([H:11])[H:12])([H:9])[H:10].[C:6](=[N:7][H:15])([H:13])[H:14].[O:1]=[C:2]=[N:3][H:8]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],17.4858063357335
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C@@:1]12([H:8])[C:2]#[C:3][C:4]([H:9])=[C:5]([H:10])[C@:6]1([H:11])[O:7]2,70.1691631087642
